Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim / Ceftra
 
Attending: ___
 
Chief Complaint:
Breast pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI(4): Ms. ___ is a ___ female with the past medical
history of anxiety, mastitis who presented with palpitations and
chest tenderness.  Was at her job as a ___ when she felt
sudden onset of palpitations associated with chest tenderness,
SOB, lightheadedness, chills. Symptoms have been persistent.
Feels if she stands up, she will pass out. She had a prior
episode in the past in the setting of mastitis 3 months ago.
Still feels tender in her left chest area. The tenderness 
extends
to her neck. Redness over breasts b/l. No nipple discharge. No
abdominal pain, dysuria.

In the ED she was found to be febrile to 102.7F. She was
administered 2L NS, lorazepam, acetaminophen, ibuprofen, and
vancomycin (0040).

ROS: No shortness of breath. Some chest tightness. No dysuria. 
No
diarrhea.
 
Past Medical History:
L-knee dislocated and in a brace, but denies recent surgeries,
travel, OCP.
 
Social History:
___
Family History:
Grandmother w/ MI x2 when she was ___. 1st degree relatives 
without heart disease.
 
Physical Exam:
ADMISSION:
==========
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD. Chest wall
is tender above breasts only.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted. Erythema surrounding left
areaola and extending superiorly. Erythema also above right
areola.
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE:
==========
24 HR Data (last updated ___ @ 839)
Temp: 99.0 (Tm 99.2), BP: 94/60 (94-109/60-74), HR: 80 (80-81),
RR: 18 (___), O2 sat: 99% (98-99), O2 delivery: RA    
GENERAL: NAD, lying comfortably in bed
EYES: PERRL, anicteric sclerae
ENT: OP clear
CV: RRR, nl S1, S2, no M/R/G, no JVD
RESP: CTAB, no crackles, wheezes, or rhonchi
GI: + BS, soft, NT, ND, no rebound/guarding, no HSM
GU: No suprapubic fullness or tenderness to palpation
BREASTS: Significant improvement of erythema of the b/l breasts
(which extends outward from the areola), minimal warmth and TTP,
no clear masses, induration, or fluctuance; areolas with scaling
b/l; unable to express discharge from nipples b/l
NEURO: AOx3, CN II-XII intact, ___ strength in all extremities,
sensation grossly intact throughout, gait testing deferred
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION:
==========
___ 08:50PM BLOOD WBC-19.1* RBC-4.32 Hgb-13.5 Hct-39.2 
MCV-91 MCH-31.3 MCHC-34.4 RDW-13.2 RDWSD-43.7 Plt ___
___ 08:50PM BLOOD Neuts-92.2* Lymphs-3.9* Monos-2.6* 
Eos-0.4* Baso-0.4 Im ___ AbsNeut-17.57* AbsLymp-0.75* 
AbsMono-0.49 AbsEos-0.08 AbsBaso-0.07
___ 08:50PM BLOOD D-Dimer-324
___ 08:50PM BLOOD Glucose-103* UreaN-11 Creat-0.8 Na-135 
K-4.0 Cl-95* HCO3-24 AnGap-16
___ 08:50PM BLOOD cTropnT-<0.01
___ 07:30AM BLOOD Calcium-8.3* Phos-3.3 Mg-1.7 Cholest-134
___ 07:30AM BLOOD Triglyc-50 HDL-75 CHOL/HD-1.8 LDLcalc-49
___ 07:30AM BLOOD CRP-87.8*
___ 10:42AM BLOOD HIV Ab-NEG
___ 08:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

DISCHARGE:
==========
___ 09:06AM BLOOD WBC-7.4 RBC-3.86* Hgb-11.9 Hct-35.8 
MCV-93 MCH-30.8 MCHC-33.2 RDW-13.2 RDWSD-44.5 Plt ___
___ 09:06AM BLOOD Neuts-61.0 ___ Monos-10.4 Eos-3.3 
Baso-1.1* Im ___ AbsNeut-4.49 AbsLymp-1.75 AbsMono-0.77 
AbsEos-0.24 AbsBaso-0.08
___ 09:06AM BLOOD Glucose-77 UreaN-7 Creat-0.6 Na-142 K-4.1 
Cl-103 HCO3-25 AnGap-14
___ 09:06AM BLOOD Calcium-9.5 Phos-3.6 Mg-2.1
___ 09:06AM BLOOD CRP-116.2*

WBC 7.4 (from 13.7), Hgb 11.9, Plt 280
BMP WNL
Ca/Mg/Phos WNL
CRP 116 (from ___)
ESR 2

Prior:
D-dimer 324
Trop <0.01
HIV neg (consented)

UA (___): negative
UCG: negative
Utox: + cocaine

Swab (nipple, ___: 
- coag + staph aureus, sparse growth
- grp B beta strep, rare growth
- mixed bacterial flora
BCx (___): pending x 2
UCx (___): mixed flora

IMAGING:
========
Breast U/S b/l (___):
IMPRESSION:  
No evidence of organized fluid collections in either breast
involving the areas of clinical concern. 
RECOMMENDATION(S): 
When clinically appropriate, referral to ___ 
___
may be considered. 

CXR (___):
No acute cardiopulmonary process.  The mediastinum is not
widened.

EKG (___):
NSR at 108 bpm, nl axis, PR 104, QRS 76, QTC 409, TW flattening
lateral leads, no ischemic changes

 
Brief Hospital Course:
___ with hx of depression/anxiety and recent L-sided mastitis
(s/p courses of amoxicillin and doxycycline) presenting with
L-sided breast pain that progressed to bilateral involvement,
fevers, and leukocytosis, concerning for bilateral mastitis, now
improving.

# Fever:
# Leukocytosis:
# Bilateral non-lactational mastitis:
Patient has a recent hx of L-sided mastitis (___) for 
which
she was treated with amoxicillin and then doxycycline through
urgent care centers in ___. She reported that the
L-sided pain/erythema was improving until the day of admission,
when she developed L-sided breast pain/erythema with associated
fevers while at work. She was febrile to 102.7 on presentation
with a leukocytosis to 19, with breast exam notable for L>R
erythema and tenderness. On ___, she reported extension of pain
to the R breast, with exam notable for b/l erythema without
induration, masses, or fluctuance to suggest abscess. She has no
hx of breast surgeries and has not breastfed in years. 
Gynecology
was consulted, and presentation was thought most consistent with
non-lactational mastitis, likely periductal, although
bilaterality is atypical. Swab of nipple discharge was growing
rare staph aureus, grp B beta strep, and mixed bacterial flora 
at
discharge. HIV was tested and negative. DDx for non-lactational
mastitis includes idiopathic granulomatous mastitis, although no
solid masses were seen on b/l breast U/S done ___. U/S also
showed no evidence of fluid collections or abscesses. She
received doxycycline on admission but was broadened to 
vancomycin
on ___ in setting of spreading erythema. Pain was initial
controlled with tylenol and tramadol. Given clinical 
improvement,
she was transitioned to clindamycin on ___ (given c/f MRSA,
recent doxycycline, and allergy to Bactrim), with no recurrence
of fevers and improvement in her leukocytosis, pain, and
erythema. WBC had normalized to 7.4 at discharge. CRP, however,
which was 87 on admission, had risen to 116 on discharge, likely
a delayed inflammatory marker response to clinical improvement.
Of note, patient's initial complaint of chest pain worse with
inspiration was concerning for PE, but negative D-dimer in the 
ED
essential ruled out this diagnosis. ACS was thought equally
unlikely given negative troponin and non-ischemic EKG. CXR was
negative for PNA. Ms. ___ will continue clindamycin 300mg q6h
for a 10d course, through ___. Given that she does not 
currently
have a PCP, she was assigned a new provider at ___, whom she
will see on ___. In addition, she was referred to the ___, where she will be seen on ___ for further w/u of
recurrent mastitis.

# Depression/anxiety:
Continued home Wellbutrin.

# Cocaine use:
# Tobacco use:
Utox positive on admission for cocaine, which patient endorses
using intermittently (never IV). Also endorses ___ cig/week.
Tobacco and cocaine cessation were encouraged. 

** TRANSITIONAL **
[ ] clindamycin 300mg q6h through ___ (10d course)
[ ] f/u BCx, NGTD at discharge
[ ] f/u final nipple discharge culture
[ ] f/u with PCP (___)
[ ] f/u with ___ further w/u of recurrent 
mastitis (___)

# Contacts/HCP/Surrogate and Communication: ___ (mother) 
___ 
# Code Status/ACP: FULL (presumed)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 300 mg PO QAM 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild  
2.  Clindamycin 300 mg PO Q6H 
Continue through ___ 
RX *clindamycin HCl 300 mg 1 capsule(s) by mouth every 6 hours 
Disp #*29 Capsule Refills:*0 
3.  BuPROPion (Sustained Release) 300 mg PO QAM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Bilateral non-lactational mastitits

Secondary:
Depression/anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with breast pain and fevers, 
concerning for an infection of the breasts (mastitis). You were 
treated with antibiotics, with improvement in your symptoms. You 
are being discharged on clindamycin, which you should take every 
6 hours through ___.

It will be important that you establish care with a primary care 
doctor and with a breast specialist to determine the cause for 
your recurrent infections.

With best wishes for a speedy recovery,
___ Medicine
 
Followup Instructions:
___